US04540692
In a nitrogen atmosphere, a solution of methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (4.0 g) and 5-amino-2-methoxy-2,4,6-cycloheptatrien-1-one (2.7 g) in xylene (100 ml) is refluxed for 6 hours. The reaction mixture is then allowed to stand at room temperature overnight. The crystals that have separated out are collected by filtration and purified by silica gel (40 g) column chromatography using methanol-dichloromethane (5:95) as the eluent. The resulting crude product is recrystallized from dioxane-methanol to give 4-hydroxy-2-methyl-N-(2-methoxy-1-oxo-2,4,6-cycloheptatrien-5-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (0.3 g), m.p. 215°-218° C.

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 4.0 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 5-amino-2-methoxy-2,4,6-cycloheptatrien-1-one | 2.7 g | NC1=CC=C(C(C=C1)=O)OC | C8H9NO2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(2-methoxy-1-oxo-2,4,6-cycloheptatrien-5-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.3 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=CC=C(C(C=C2)=O)OC | C18H16N2O6S
